US04556675
A. [1β,2β(5Z),3α(1 E,4R*S*),4β]-7-[3-(3-oxo-4-methyl-oct-1-ene-6-ynyl]-5-heptenoic acid, methyl ester
To a slurry of 301.6 mg of 50% sodium hydride in mineral oil and 150 ml of anhydrous dimethoxyethane (DME) is added 1.32 g (5.7 mmole) of 2-oxo-3-methylhept-5-yne dimethylphosphonate (prepared as described in U.S. Pat. No. 4,235,93) in 15 ml of DME at 0° C. under an argon atmosphere. The mixture is stirred at 25° for 1.5 hours. To the solution at 25° is added 1.05 g (3.9 mmole) of [1β,2β(5Z),3α,4β]-7-[3-formyl-7-oxabicyclo[2.2.1]hept-2-yl]-5-heptenoic acid, methyl ester (prepared as described in Example 1), in 15 ml of DME. After 1 hour the reaction is quenched with 0.7 ml of glacial acetic acid, concentrated, dissolved in 500 ml of ether, washed with three 100 ml portions of 5% NaHCO3 and 100 ml of brine. The organic layer is dried over MgSO4 and concentrated to give 1.66 g of crude title A compound.

reactant | sodium hydride | 301.6 mg | [H-].[Na+]
reactant | 2-oxo-3-methylhept-5-yne dimethylphosphonate | 5.7 mmole, 1.32 g | COP(OC)=O.O=C(C)C(CC#CC)C
reactant | DME | 15 ml | C(OC)COC | C4H10O2
reactant | DME | 15 ml | C(OC)COC | C4H10O2
reactant | dimethoxyethane | 150 ml | C(OC)COC | C4H10O2
product | 3-(3-oxo-4-methyl-oct-1-ene-6-ynyl]-5-heptenoic acid, methyl ester | O=C(C=CC(CC(=O)OC)CC=CC)C(CC#CC)C | C17H24O3
